data/oMe_Silver.jsonl
{"reaction_id": "NR-239_1-c1ccccc1_2-C1CCCCC1_3-c1ccc(F)cc1_4-c1ccc(OC)cc1","level": "medium","name": "Stetter Reaction","reactants_smiles": ["c1ccccc1C(=O)[H]","C(c1ccc(F)cc1)=C(c1ccc(OC)cc1)C(=O)C1CCCCC1","[C-]#N"],"products_smiles": ["C1CCCCC1C(=O)C(c1ccc(OC)cc1)C(c1ccc(F)cc1)C(=O)c1ccccc1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C([O-])C#N","step_weight": 0,"rationale": "Cyanide attacks the electrophilic carbonyl carbon of the aldehyde due to its strong nucleophilicity and the polarization of the C=O bond, forming a stabilized cyanohydrin anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[C-](O)C#N","step_weight": 0,"rationale": "Proton transfer occurs to generate the Breslow-type intermediate, driven by stabilization through resonance between the alkoxide and adjacent carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C(O)(C#N)C(c1ccc(F)cc1)C(c1ccc(OC)cc1)=C([O-])C1CCCCC1","step_weight": 0,"rationale": "The nucleophilic Breslow intermediate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C([O-])(C#N)C(c1ccc(F)cc1)C(c1ccc(OC)cc1)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Proton transfer converts the enolate into a neutral alcohol, driven by the high basicity of the enolate and the availability of proton donors in the medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1C(=O)C(c1ccc(OC)cc1)C(c1ccc(F)cc1)C(=O)c1ccccc1","step_weight": 0,"rationale": "Elimination of cyanide regenerates the catalyst, favored by the formation of a conjugated carbonyl system and the good leaving group ability of cyanide under these conditions."}],"description": "In the Stetter reaction, a nucleophilic catalyst such as cyanide activates the aldehyde to form a Breslow-type intermediate, which then performs a Michael addition to an α,β-unsaturated carbonyl. Subsequent proton transfers and catalyst elimination yield the thermodynamically stable 1,4-dicarbonyl product."}
{"reaction_id": "NR-241_1-c1ccccc1_2-C_3-CC(Cl)(Cl)Cl_4-c1ccc(C#N)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccccc1C(=O)[H]","COC(=O)CP(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccccc1/C=C\\C(=O)OC"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[CH-]P(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)C(P(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1))C([O-])c1ccccc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)C1C(c1ccccc1)OP1([O-])(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1/C=C\\C(=O)OC","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
